US06348474B1
Methyl 3-(1-bromonaphthalen-2-ylmethyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a suspension of methyl 2,7-dimethyl-1H-imidazo[4,5-b]pyridine-5-carboxylate (625 mg) in N,N-dimethylformamide (6 ml) was added sodium hydride (70% in mineral oil, 125 mg) under ice-cooling, and the mixture was stirred for 30 min. 1-Bromonaphthalen-2-ylmethyl bromide (1.05 g) was added to the reaction mixture, and the mixture was stirred under ice-cooling for 3 hr. Diisopropyl ether (12 ml) was added to the reaction mixture and the precipitate was collected by filtration to give the objective compound (1.35 g) as a white powder.

reactant | methyl 2,7-dimethyl-1H-imidazo[4,5-b]pyridine-5-carboxylate | 625 mg | CC=1NC=2C(=NC(=CC2C)C(=O)OC)N1 | C10H11N3O2
reactant | sodium hydride | 125 mg | [H-].[Na+]
reactant | 1-Bromonaphthalen-2-ylmethyl bromide | 1.05 g | BrC1=C(C=CC2=CC=CC=C12)CBr | C11H8Br2
reactant | Diisopropyl ether | 12 ml | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | Methyl 3-(1-bromonaphthalen-2-ylmethyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 1.35 g | BrC1=C(C=CC2=CC=CC=C12)CN1C(=NC=2C1=NC(=CC2C)C(=O)OC)C | C21H18BrN3O2
